US06982348B2
N-((1RS,2SR)-2-hydroxy-2-(4-phenoxyphenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-fluoro-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-phenoxyphenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (400 mg, 1.03 mmol) in acetonitrile (30 ml) were added 4-fluoronaphthalenecarboxylic acid (196 mg, 1.03 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (297 mg, 1.55 mmol) and 1-hydroxy-1H-benzotriazole (158 mg, 1.03 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave the title compound (520 mg, 90%).

reactant | (1RS,2SR)-2-amino-1-(4-phenoxyphenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 1.03 mmol, 400 mg | NC(C(O)C1=CC=C(C=C1)OC1=CC=CC=C1)CC1=CC=C(C=C1)C(F)(F)F | C22H20F3NO2
reactant | 4-fluoronaphthalenecarboxylic acid | 1.03 mmol, 196 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.55 mmol, 297 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 1.03 mmol, 158 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-hydroxy-2-(4-phenoxyphenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-fluoro-1-naphthalenecarboxamide | 520 mg, 90% | OC(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C1=CC=C(C2=CC=CC=C12)F)C1=CC=C(C=C1)OC1=CC=CC=C1 | C33H25F4NO3
